*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.20e-02[uF]/80[V]
* Murata P/N :GCM2192C1K123JA01
* Property : C = 1.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2192C1K123JA01 Port1 Port2
C01 Port1 N01 1.18e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.14e-10
R03 N02 N03 4.97e-03
L04 N03 N04 8.35e-12
R04 N03 N04 1.99e-01
L05 N04 N05 6.50e-11
R05 N04 N05 1.98e-01
L06 N05 N06 5.73e-11
R06 N05 N06 6.80e-03
L07 N06 N07 1.77e-10
R07 N06 N07 2.44e-03
C08 N07 N08 3.70e-08
L08 N07 N08 3.53e-11
R08 N07 N08 2.37e-01
C09 N08 N09 1.29e-08
L09 N08 N09 4.21e-11
R09 N08 N09 2.65e-01
C10 N09 N10 7.98e-09
L10 N09 N10 1.98e-11
R10 N09 N10 8.63e-02
C11 N10 Port2 1.38e-12
L11 N10 Port2 2.15e-10
R11 N10 Port2 3.61e+02
.ENDS GCM2192C1K123JA01
